US07196079B2
Step C. 9-Chloro-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine
A solution of 2-amino-3-chlorobenzophenone (0.730 g, 3.15 mmol) and ethyl glycinate hydrochloride salt (0.660 g, 4.72 mmol) in pyridine (15 mL) was refluxed using a Dean-Stark trap to remove water. After 30 h the reaction was cooled and concentrated. The residue was dissolve in methylene chloride and washed with saturated sodium bicarbonate. The crude product was purified by chromatography (silica gel, 0–30% ethyl acetate in hexane gradient elution) to give the title compound as a solid (0.557 g). 1H NMR (500 MHz, CDCl3) δ 7.83 (br s, 1H), 7.61 (dd, J=1, 8 Hz, 1H), 7.52 (m, 2H), 7.46 (tt, J=1,8 Hz, 1H), 7.39 (t, J=8 Hz, 2H), 7.26 (m, 1H), 7.11 (t, J=8 Hz, 1H), 4.36 (br s, 2H).

reactant | 2-amino-3-chlorobenzophenone | 3.15 mmol, 0.730 g | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1Cl | C13H10ClNO
reactant | ethyl glycinate hydrochloride salt | 4.72 mmol, 0.660 g | Cl.NCC(=O)OCC
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 9-Chloro-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine | 0.557 g | ClC1=CC=CC=2C(=NCC(NC21)=O)C2=CC=CC=C2 | C15H11ClN2O
